US06861438B2
N-(4-chlorobenzyl)-2-(3-hydroxyprop-1-ynyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
A mixture of N-(4-chlorobenzyl)-2-iodo-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (0.20 g, 0.44 mmol), Pd(PhCN)2Cl2 (10 mg) CuI (7 mg) Et3N (1 mL) and propargyl alcohol (0.036 g, 0.66 mmol) in DMF was stirred at ambient temperature overnight. The solvent was removed and the residue partitioned between H2O and CH2Cl2 (100 mL each). The layers were shaken, the organic layer separated and dried over MgSO4. The solvents were removed in vacuo and the residue purified via flash column chromatography (eluant 5% MeOH/CH2Cl2) to afford 0.117 g title compound as a white solid.

reactant | N-(4-chlorobenzyl)-2-iodo-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.44 mmol, 0.20 g | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C=C(S3)I)=O)C=C1 | C16H12ClIN2O2S
reactant | propargyl alcohol | 0.66 mmol, 0.036 g | C(C#C)O | C3H4O
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Pd(PhCN)2Cl2 | 1 mL, 10 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
product | N-(4-chlorobenzyl)-2-(3-hydroxyprop-1-ynyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.117 g | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C=C(S3)C#CCO)=O)C=C1 | C19H15ClN2O3S
